US08222274B2
A 300 mg portion of ethyl 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate was suspended in 9 ml of ethanol, and 1.8 ml of a 8 M potassium hydroxide aqueous solution was added, followed by stirring overnight at 100° C. The reaction liquid was cooled to room temperature, adjusted to pH 1 by adding 6 M hydrochloric acid and 1 M hydrochloric acid under ice-cooling, and then stirred at the same temperature for 1 hour. The resulting solid was collected by filtration, washed with water and then dried at 90° C. under a reduced pressure to obtain 269 mg of 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylic acid as a colorless solid.

reactant | ethyl 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=CC=C1)C)C(=O)OCC | C20H27NO2
reactant | potassium hydroxide | 8 M | [OH-].[K+]
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylic acid | 269 mg | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=CC=C1)C)C(=O)O | C18H23NO2
